US06956053B2
Step a. 3-(Adamantan-1-yloxymethyl)-1-cyclohexyl-5-methoxy-1H-pyrazole
5-(Adamantan-1-yloxymethyl)-2-cyclohexyl-2H-pyrazol-3-ol (0.29 g, 0.88 mmol) and sodium hydride (50 mg, 1.25 mmol of a 40% suspension in mineral oil) were stirred in THF-DMF (1:1) (10 mL) at 0° C. for 0.5 h, then allowed to warm to room temperature. Dimethyl sulphate (0.1 mL, 1 mmol) was added and the mixture stirred overnight. After concentration in vacuo, the mixture was poured into water (10 mL) and extracted with EtOAc (20 mL). The organic layer was separated washed with water (2×10 mL) and dried (MgSO4). Filtration and evaporation of the solvent afforded a yellow oil, which was purified by chromatography with EtOAc-hexane (1:1) as eluant. (0.24 g, 81%).

reactant | 5-(Adamantan-1-yloxymethyl)-2-cyclohexyl-2H-pyrazol-3-ol | 0.88 mmol, 0.29 g | C12(CC3CC(CC(C1)C3)C2)OCC=2C=C(N(N2)C2CCCCC2)O | C20H30N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | Dimethyl sulphate | 1 mmol, 0.1 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF DMF | 10 mL | C1CCOC1.CN(C)C=O
product | 3-(Adamantan-1-yloxymethyl)-1-cyclohexyl-5-methoxy-1H-pyrazole | C12(CC3CC(CC(C1)C3)C2)OCC2=NN(C(=C2)OC)C2CCCCC2 | C21H32N2O2
